* THS3491
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: THS3491RGT
* Date: 2/16/18
* Model Type: All In One
* Simulator: TINA-TI
* Simulator Version: 9.3.150.328 SF-TI
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS875 - August 2017
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* 
*
*****************************************************************************
* Notes: 
* 1. The model aligns with the data sheeet for +15V, -15V operation 
*    for the following parameters at T =25C: 
*    BW for G = 5 V/V, Slew rate, Noise, VOUT versus IOUT ,
*    CMRR, PSRR, Enable time, Disable Time, VOS, IIB, VOH, VOL
* 2. The PD threshold is 1V
* 3. The model does not duplicate the real device operation over temperature.
* 4. The model may not align with device operation at power supplies lower than 
*    +15V/-15V or 30V.
*****************************************************************************
*
*
.SUBCKT THS3491DDA INP INN OUT REF PD_not VCC VEE GND
R_R23         0 MID  1k TC=0,0 
G_G5         INP GNDF INP GNDF 2e-5
R_R9         CNTRL_AND_SHDN IN_COMP  1000 TC=0,0 
E_E9         N1561220 GND INPUTP_ICMR GND 0.9992
R_R15         INPUTN_GBW GNDF  0.001 TC=0,0 
D_D3         GND N1561570 D_IN_CLMP 
E_E5         INPUTP_CMRR INPUTP_ICMR OUT_CMRR GNDF 0
R_R4         INN INPUT_OUTN  0.1 TC=0,0 
X_U119         N_AND_SHDN SHDN GNDF GND N1561298 NAND2 
C_C6         GNDF IN_COMP  0.07n  TC=0,0 
C_C10         N1623290 INPUTN_ICMR  20p  TC=0,0 
X_U124         INPUTP_CMRR N1563258 VICM VCC VEE GNDF VOS 
D_D2         N1561570 GND D_IN_CLMP 
X_U120         N1561298 N1561298 GNDF GND CNTRL_AND_SHDN NAND2 
R_R19         REF 0  1e6 TC=0,0 
R_R24         FULL N1560624  1 TC=0,0 
X_U105         INN_OUT_CNTRL INN VCC VEE GNDF DEV_DIS 
X_U118         AND_CNTRLS AND_CNTRLS GNDF GND N_AND_SHDN NAND2 
R_R21         EN N1560848  1 TC=0,0 
R_R18         N1622379 N1561294  15 TC=0,0 
R_R30         N1622379 N1623290  50 TC=0,0 
E_E4         INPUTN_CMRR INPUTN_ICMR OUT_CMRR GNDF 0
D_D1         IN_COMP CNTRL_AND_SHDN Dpdn
E_E3         GNDF 0 N1561272 N1561036 0.5
D_D4         GND N1561616 D_IN_CLMP 
X_U108         GNDF INPUT_OUTN femt_inv
E_E1         N1561272 0 VCC 0 1
E_E10         N1560610 GNDF INPUT_TF GNDF 2
C_C7         GNDF N1560200  457f  TC=0,0 
R_R20         PD_NOT 0  1e6 TC=0,0 
X_U114         INP_OUT_CNTRL INN_OUT_CNTRL GNDF GND AND_CNTRLS NAND2 
X_U121         VCC VEE INPUT_OUTN INPUTN_CMRR GNDF PSRR 
D_D5         N1561616 GND D_IN_CLMP 
R_R10         GNDF EN  10k TC=0,0 
C_C12         INPUTN_ICMR GNDF  1.2p  TC=0,0 
X_U111         INPUTP_CMRR GNDF VICM VCC VEE N1561920 GNDF IIBP 
X_U106         INP_OUT_CNTRL INP VCC VEE GNDF DEV_DIS 
X_U104         EN IN_COMP N1562372 GNDF COMPARATOR 
R_R25         N1560610 N1560200  50 TC=0,0 
X_U126         INPUT_TF INPUTP_GBW INPUTN_GBW FULL EN VCC VEE GNDF
+  gbw_slew_ovrdrv_lim 
X_ZOUT         INPUT_AMMETER  OUTPUT_CLAMP ZOL
E_E2         N1561036 0 VEE 0 -1
X_U127          VCC VEE INPUT_VCLAMP OUTPUT_CLAMP VIMON EN GNDF VOUTvsIOUT_NROS_SHDN
L_L4         INPUTN_ICMR N1622379  3.5nH  
R_R29         N1623290 INPUTN_ICMR  25 TC=0,0 
C_C9         GNDF N1559782  4.7p  TC=0,0 
V_V5         N1561920 GNDF 1Vdc
R_R16         GNDF INPUTP_GBW  0.001 TC=0,0 
X_U112         VCC VEE N1560624 MID LOW N1560848 VIMON GNDF IQ_MODES 
X_F1    N1561220 N1561294 INPUTP_GBW INPUTN_GBW DEV_SCH3_F1 
R_R13         OUTPUT_TF INPUT_VCLAMP  1 TC=0,0 
L_L2         N1560200 N1559762  3.29nH   
X_U110         INPUTN_CMRR GNDF VICM VCC VEE N1562100 GNDF IIBN 
V_V6         N1562100 GNDF 1Vdc
E_E12         OUTPUT_TF GNDF N1559782 GNDF 1
R_R22         0 LOW  1k TC=0,0 
C_C8         GNDF N1559762  2.99p  TC=0,0 
X_U122         VICM INP INN GNDF VICM 
R_R17         INPUTN_GBW INPUTP_GBW  0.002 TC=0,0 
X_U107         N1563258 GNDF femt 
E_E11         N1559770 GNDF N1559762 GNDF 1.052
X_U113         REF PD_NOT VCC VEE GND GNDF FULL MID LOW SHDN MODE_CNTRL_2BITS 
R_R26         GNDF N1559762  50 TC=0,0 
L_L1         OUT_CMRR N1563334  8uH  
V_V4         N1562372 GNDF 0.5Vdc
R_R28         GNDF N1559782  280 TC=0,0 
G_G1         OUT_CMRR GNDF VICM GNDF 0
C_C11         GNDF INP  1.5p  TC=0,0 
X_U123         INPUT_OUTP N1563258 vnse 
R_R27         N1559770 N1559776  20 TC=0,0
X_U103         INPUT_AMMETER OUT VIMON GNDF AMETER 
R_R3         INP INPUT_OUTP  0.1 TC=0,0  
L_L3         N1559776 N1559782  3.6nH 
R_R5         N1563334 GNDF  1 TC=0,0 
.model D_IN_CLMP d is=1e-014 n=0.02 rs=1
.MODEL Dpdn D IS=10f
.ENDS
*$
.subckt DEV_SCH3_F1 1 2 3 4  
F_F1         3 4 VF_F1 -1000
VF_F1         1 2 0V
.ends DEV_SCH3_F1
*$
*
*
.SUBCKT NAND2 A B GNDF GND Y
.PARAM VTHRESH = 0.5
.PARAM VTRUE = 1
.PARAM VFALSE = 0
E_ABMGATE Y GNDF VALUE = {VTRUE - (IF((V(A,GNDF) > VTHRESH) &  (V(B,GNDF) > VTHRESH),VTRUE,VFALSE))}
.ENDS
*
*
.SUBCKT AND2 A B GNDF Y
.PARAM VTHRESH = 0.5
.PARAM VTRUE = 1
.PARAM VFALSE = 0
E_ABMGATE YINT GNDF VALUE = {IF((V(A,GNDF) > VTHRESH) &  (V(B,GNDF) > VTHRESH),VTRUE,VFALSE)}
.ENDS
*$
*
*
.SUBCKT VOS OUT IN VICM VCC VEE GNDF
.PARAM SCALE = 1e-6
.PARAM DRIFT = 3u
.PARAM VICM_SHIFT = 1u
.PARAM VCC_SHIFT = 1u
.PARAM VOS_TYP = 1000
EDRIFT NDRIFT 0 VALUE = {DRIFT*(TEMP - 27)}
ESHIFT NSHIFT 0 VALUE = {VICM_SHIFT*V(VICM,GNDF)}
EVCC NVCC 0 VALUE = {V(VCC,VEE)}
EVCCSHIFT NVCCSHIFT 0 VALUE = {VCC_SHIFT*V(NVCC)}
EVOS OUT IN VALUE = {SCALE*(VOS_TYP + V(NDRIFT) + V(NSHIFT) + V(NVCCSHIFT))}
.ENDS
*$
*
*
.SUBCKT dev_dis OUT_CNTRL IN VCC VEE GNDF
.PARAM VSmax = 33
.PARAM VSmin = 14
.PARAM VINHR = 3.8
*
EIN1 NIN1 0 VALUE = {V(VCC,IN)}
EIN2 NIN2 0 VALUE = {V(IN,VEE)}
EVCC NVCC 0 VALUE = {V(VCC,VEE)}
*
EN1 N1 GNDF VALUE = {0.5*(1 + SGN(VSmax - V(NVCC)))}
EN2 N2 GNDF VALUE = {0.5*(1 + SGN(V(NVCC) - VSmin))}
EN3 N3 GNDF VALUE = {0.5*(1 + SGN(V(NIN1) - VINHR))}
EN4 N4 GNDF VALUE = {0.5*(1 + SGN(V(NIN2) - VINHR))}
EOUT OUT_CNTRL GNDF VALUE = {V(N1,GNDF)*V(N2,GNDF)*V(N3,GNDF)*V(N4,GNDF)}
.ENDS
*$
*
*
.SUBCKT FEMT_INV 1 2 
.PARAM NLFF = 100000 
.PARAM FLWF = 100
.PARAM NVRF = 20000
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
*
*
.SUBCKT PSRR  VDD  VSS  VI  VO  GNDF 
.PARAM PSRRP = 82
.PARAM PSRRN = 80
.PARAM fpsrr = 1
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRR}
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*fpsrr)}
.PARAM VCC_NOM = 24
EVCC NVCC 0 VALUE = {ABS(V(VDD,0) - VCC_NOM/2)}
EVSS NVSS 0 VALUE = {ABS(V(VSS,0) + VCC_NOM/2)}
G1  0 1 NVCC 0 {GPSRRP}
R1  1 2 {RPSRR}
L1  2 0 {LPSRR} 
*
G2  0 3 NVSS 0 {GPSRRN}
R2  3 4 {RPSRR}
L2  4 0 {LPSRR} 
G3  6 0 VALUE = {ABS(V(1,0))}
G4  6 0 VALUE = {ABS(V(3,0))}
R3  6 0 1
E1  VO VI 6 0 1
.ENDS
*
*
*
.SUBCKT IIBP OUT IN INP VCC VEE MODE GNDF
.PARAM SCALE = 1u
.PARAM IIB_LOW = 0
.PARAM MAX_IIB_LOW = 0
.PARAM DRIFT_LOW = 0
*.PARAM IIB_HI = 1.5
.PARAM IIB_HI = 1.5
.PARAM MAX_IIB_HI = 10
.PARAM DRIFT_HI = 0.015
**
EIIB_HI NIIB_HI 0 VALUE = {MAX(MIN((IIB_HI + DRIFT_HI*(TEMP - 27)),MAX_IIB_HI),-MAX_IIB_HI)}
EIIB_LOW NIIB_LOW 0 VALUE = {MAX(MIN((IIB_LOW + DRIFT_LOW*(TEMP - 27)),MAX_IIB_LOW),-MAX_IIB_LOW)}
****
GOUT IN OUT VALUE = {SCALE*((1-V(MODE,GNDF))*V(NIIB_LOW) + V(MODE,GNDF)*V(NIIB_HI))}
**
.ENDS
*$
*
*
.SUBCKT COMPARATOR OUT IN REF GNDF
.PARAM VOUT_MAX = 1
.PARAM VOUT_MIN = 0
.PARAM GAIN = 1e4
EOUT OUT GNDF VALUE = {MAX(MIN(GAIN*V(IN,REF),VOUT_MAX),VOUT_MIN)}
.ENDS
*$
*
*
.SUBCKT GBW_SLEW_OVRDRV_LIM VO VIP VIM FULL SHDN VCC VEE GNDF
***  
* FULL, MID, LOW are nodes that control BW modes. 
* For active state they should equal V(x,GNDF) = 1V where x = FULL,MID or LOW
* The nodes should made active one at a time.
***
.PARAM Aol = 140   
.PARAM GBW_FULL = 22e10 
.PARAM SRP = 9000e6  
.PARAM SRN = 9000e6 
.PARAM IT = 0.001
.PARAM PI = 3.141592
.PARAM IP = {IT*MAX(1,SRP/SRN)}
.PARAM IN = {IT*MIN(-1,-SRN/SRP)}
.PARAM CC = {IT*MAX(1/SRP,1/SRN)}
**
.PARAM FP_FULL = {GBW_FULL/PWR(10,AOL/20)}
.PARAM RC_FULL = {1/(2*PI*CC*FP_FULL)}
.PARAM GC_FULL = {PWR(10,AOL/20)/RC_FULL}
**
**
GFULLp GNDF OUTG1pFULL VALUE = {MAX(MIN(GC_FULL*V(FULL,GNDF)*V(SHDN,GNDF)*V(VIP,VIM),IP),IN)}
**
**
RG1pFULL OUTG1pFULL GNDF {RC_FULL}
Cg1dpFULL OUTG1pFULL GNDF {CC} IC=0
S1pFULLp OUTG1pFULL N1pFULLp OUTG1pFULL N1pFULLp SW1pFULLp
S1pFULLn OUTG1pFULL N1pFULLn OUTG1pFULL N1pFULLn SW1pFULLn
E1pFULLp N1pFULLp GNDF VALUE = {V(VCC,GNDF) - 1.3}
E1pFULLn N1pFULLn GNDF VALUE = {V(VEE,GNDF) + 1.3}
.MODEL SW1pFULLp VSWITCH RON = 200k ROFF = 1e9 VON = 0.1 VOFF = 0.0
.MODEL SW1pFULLn VSWITCH RON = 200k ROFF = 1e9 VON = -0.1 VOFF = 0.0
**
**
EHIZN NHIZN GNDF VALUE = {V(SHDN,GNDF)*(V(OUTG1pFULL,GNDF))}
E1OUT VO GNDF VALUE = {MAX(MIN(V(NHIZN,GNDF), 100*V(VCC,GNDF)),100*V(VEE,GNDF))}
**
**
.ENDS
*$
*
*
.SUBCKT ZOL OUT_ZOL IN_ZOL
E_E7         N165882 0 N_SUM 0 1
E_E3         AOL_ZO_IN 0 IN_ZOL OUT_ZOL 1
C_C5         N181461 Z2  1000e-5p  TC=0,0 
R_R9         0 Z2  1k TC=0,0 
R_R6         OUT_E4_ZO OUT_ZOL  3600 TC=0,0 
E_E4         OUT_E4_ZO 0 N173483 0 1
R_R8         N173483 N165882  1k TC=0,0 
R_R10         P1 N169815  1k TC=0,0 
G_G3         N_SUM 0 P1 0 -1
E_E5         N176951 0 AOL_ZO_IN 0 100
C_C7         0 P1  1.4p  TC=0,0 
G_G4         N_SUM 0 N176951 0 -1
C_C4         N166300 Z1  762p  TC=0,0 
G_G6         N_SUM 0 P2 0 -1
R_R7         0 Z1  1k TC=0,0 
C_C6         0 P2  0.531  TC=0,0 
R_R12         P2 N190211  10k TC=0,0 
G_G5         N_SUM 0 Z2 0 -1
E_E6         N166300 0 AOL_ZO_IN 0 3100
E_E8         N181461 0 AOL_ZO_IN 0 3100
R_R5         0 N_SUM  1 TC=0,0 
E_E9         N169815 0 Z1 0 1
E_E10         N190211 0 AOL_ZO_IN 0 3100
R_R11         0 OUT_ZOL  360 TC=0,0 
.ENDS
*
*
.SUBCKT vclamp_w_sense VI VO VDD VSS VIMON GNDF
.PARAM ISC = 0.620
.PARAM ROS = 160
.PARAM REQ = 158 
E1P    N1P   GNDF VALUE = {V(VIMON,GNDF)*REQ}
E2P    N2P   GNDF VALUE = {ISC*ROS-V(VDD,GNDF)}
EHRPOS HRPOS GNDF VALUE = {MIN(V(N1P,GNDF),V(N2P,GNDF))}
EHRNEG HRNEG GNDF VALUE = {MAX(V(VIMON,GNDF)*REQ,-ISC*ROS-V(VSS,GNDF))}
EPCLIP  VDD_CLP GNDF VALUE = {V(VDD,GNDF) - 1.4 + V(HRPOS,GNDF)}
ENCLIP  VSS_CLP GNDF VALUE = {V(VSS,GNDF) + 1.4 + V(HRNEG,GNDF)}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VSS_CLP,GNDF), V(VDD_CLP,GNDF))}
.ENDS
*$
*
*
.SUBCKT VOUTvsIOUT_NROS_SHDN  VCC  VEE  VI  VO VIMON SHDN GNDF
*
.PARAM ISC_POS = 0.620
.PARAM ISC_NEG = -0.620
.PARAM IMAXLIN_POS = 0.540
.PARAM IMAXLIN_NEG = -0.540
.PARAM VOUTMAXLIN = 13.1
.PARAM VOUTMINLIN = -13.1
.PARAM VHR_VCC = -1.4
.PARAM VHR_VEE = 1.4
.PARAM VCC_DATASHEET = 15
.PARAM VEE_DATASHEET = -15
.PARAM VMID_DATASHEET = {(VCC_DATASHEET + VEE_DATASHEET)/2}
.PARAM VHR_MAX_LINEAR = {VOUTMAXLIN - VCC_DATASHEET}
.PARAM VHR_MIN_LINEAR = {VOUTMINLIN  - VEE_DATASHEET}
ER1 NR1 GNDF VALUE = {(VOUTMAXLIN - (VCC_DATASHEET + VHR_VCC))/IMAXLIN_POS}
ER2 NR2 GNDF VALUE = {(VOUTMINLIN - (VEE_DATASHEET + VHR_VEE))/IMAXLIN_NEG}
EVOUT1pos NVOUT1_MAX GNDF VALUE = {(V(VCC,GNDF) + VHR_VCC) + V(NR1,GNDF)*V(VIMON,GNDF)}
EVOUT1neg NVOUT1_MIN GNDF VALUE = {(V(VEE,GNDF) + VHR_VEE) + V(NR2,GNDF)*V(VIMON,GNDF)}
EM1 NM1 GNDF VALUE = {(VOUTMAXLIN - VMID_DATASHEET)/(IMAXLIN_POS - ISC_POS)}
EM2 NM2 GNDF VALUE = {(VOUTMINLIN - VMID_DATASHEET)/(IMAXLIN_NEG - ISC_NEG)}
EVMID NVMID GNDF VALUE = {(V(VCC,GNDF) + V(VEE,GNDF))/2}
E1 N1 GNDF VALUE = {V(VCC,GNDF) + VHR_MAX_LINEAR}
E2 N2 GNDF VALUE = {V(VEE,GNDF) + VHR_MIN_LINEAR}
EV1 NV1 GNDF VALUE = {V(NVMID,GNDF) + (V(N1,GNDF) - V(NVMID,GNDF))/(1 - IMAXLIN_POS/ISC_POS)}
EV2 NV2 GNDF VALUE = {V(NVMID,GNDF) + (V(N2,GNDF) - V(NVMID,GNDF))/(1 - IMAXLIN_NEG/ISC_NEG)}
EVOUT2pos NVOUT2_MAX GNDF VALUE = {V(NV1,GNDF) + V(VIMON,GNDF)*V(NM1,GNDF)}
EVOUT2neg NVOUT2_MIN GNDF VALUE = {V(NV2,GNDF) + V(VIMON,GNDF)*V(NM2,GNDF)}
EHRPOS HRPOS GNDF VALUE = {MIN(V(NVOUT1_MAX,GNDF),V(NVOUT2_MAX,GNDF))}
EHRNEG HRNEG GNDF VALUE = {MAX(V(NVOUT1_MIN,GNDF),V(NVOUT2_MIN,GNDF))}
*
*** Clamp output if req'd
ECLAMP  VO GNDF VALUE = {V(SHDN,GNDF)*MAX(MIN(V(VI,GNDF), V(HRPOS,GNDF)), V(HRNEG,GNDF))}
**
*
.ENDS
*
*
.SUBCKT IQ_MODES VCC VEE FULL MID LOW SHDN VIMON GNDF
.PARAM IQ_FULL = 0.0168
.PARAM IQ_MID = 0.0162
.PARAM IQ_LOW = 0.0112
.PARAM IQ_SHDN = 0.000670
GIQ VCC VEE VALUE = {IQ_FULL*V(FULL,GNDF)*V(SHDN,GNDF) + IQ_MID*V(MID,GNDF)
+  + IQ_LOW*V(LOW,GNDF) + IQ_SHDN*(1 - V(SHDN,GNDF))}
*
GOUTP VCC GNDF VALUE = {IF(V(VIMON,GNDF) > 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
GOUTN GNDF VEE VALUE = {IF(V(VIMON,GNDF) <= 0, V(VIMON,GNDF)*V(SHDN,GNDF),0)}
.ENDS
*$
*
*
.SUBCKT IIBN OUT IN INN VCC VEE MODE GNDF
.PARAM SCALE = 1u
.PARAM IIB_LOW = 0
.PARAM MAX_IIB_LOW = 0
.PARAM DRIFT_LOW = 0
.PARAM IIB_HI = 1
.PARAM MAX_IIB_HI = 20
.PARAM DRIFT_HI = 0.015
**
EIIB_HI NIIB_HI 0 VALUE = {MAX(MIN((IIB_HI + DRIFT_HI*(TEMP - 27)),MAX_IIB_HI),-MAX_IIB_HI)}
EIIB_LOW NIIB_LOW 0 VALUE = {MAX(MIN((IIB_LOW + DRIFT_LOW*(TEMP - 27)),MAX_IIB_LOW),-MAX_IIB_LOW)}
****
GOUT OUT IN VALUE = {SCALE*((1-V(MODE,GNDF))*V(NIIB_LOW) + V(MODE,GNDF)*V(NIIB_HI))}
.ENDS
*$
*
*
.SUBCKT VICM OUT INP INN GNDF
EOUT OUT GNDF VALUE = {0.5*(V(INP,GNDF) + V(INN,GNDF))}
.ENDS
*$
*
*
.SUBCKT FEMT 1 2 
.PARAM NLFF = 100000 
.PARAM FLWF = 100
.PARAM NVRF = 15000
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
*
*
.SUBCKT MODE_CNTRL_2BITS B1_IN  B2_IN VCC VEE  GND GNDF FULL  MID  LOW  SHDN 
*                        REF  PD_NOT  VCC VEE  GND GNDF FULL  MID  LOW  SHDN
.PARAM VTHRESH = 1.6
.PARAM B1_POS_HR = -5
.PARAM B1_NEG_HR = 0
.PARAM VTRUE = 1 
.PARAM VFALSE = 0
*
EREF_HI NREF_HI GNDF VALUE = {0.5*(1 + SGN(V(VCC,B1_IN) + B1_POS_HR))}
EREF_LOW NREF_LOW GNDF VALUE = {0.5*(1 + SGN(V(B1_IN,VEE) + B1_NEG_HR + 1p))}
EPDz NPDZ GNDF VALUE = {0.5*(1 + SGN(V(B2_IN,B1_IN) - VTHRESH))}
EPDZ_HI NPDZ_HI GNDF VALUE = {0.5*(1 + SGN(V(VCC,GNDF) - V(B2_IN,GNDF)))}
EPDZ_LOW NPDZ_LOW GNDF VALUE = {0.5*(1 + SGN(V(B2_IN,GNDF) - V(VEE,GNDF)))}
*
EFULL FULL GNDF VALUE = {VTRUE}
EMID MID GNDF VALUE = {VFALSE}
ELOW LOW GNDF VALUE = {VFALSE}
*ESHDN SHDN GNDF VALUE = {V(NREF_HI,GNDF)*V(NREF_LOW,GNDF)*V(NPDZ,GNDF)*V(NPDZ_HI,GNDF)*V(NPDZ_LOW,GNDF)}
ESHDN SHDN GNDF VALUE = {V(NPDZ,GNDF)}
*
.ENDS
*$
*
*
.SUBCKT VNSE 1 2 
.PARAM NLF = 30 
.PARAM FLW = 10  
.PARAM NVR = 1.7
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
*$
*
*
.SUBCKT AMETER  VI  VO VIMON GNDF
.PARAM GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON GNDF VALUE = {I(VSENSE)*GAIN}
.ENDS
*$

